US08426414B2
A solution of ((1S,2S)-1-{[(4′-isopropoxy-biphenyl-4-yl)-(2-pyridin-2-yl-cyclopropanecarbonyl)-amino]-methyl}-2-methyl-butyl)-carbamic acid tert-butyl ester (48 mg, 0.084 mmol) and dichloromethane (4 mL) was treated with a solution of HCl in dioxane (4 N, 0.5 mL) and the resulting reaction mixture was maintained at room temperature for 12 h. The reaction was then concentrated to dryness to afford (1R,2R)-2-pyridin-2-yl-cyclopropanecarboxylic acid ((2S,3S)-2-amino-3-methyl-pentyl)-(4′-isopropoxy-biphenyl-4-yl)-amide (38 mg, 95% yield) as a white solid: 1H NMR (400 MHz, MeOD) δ 8.34 (d, J=5.3 Hz, 1H), 7.95 (t, J=7.6 Hz, 1H), 7.55 (d, J=8.1 Hz, 2H), 7.38-7.45 (m, 3H), 7.29-7.37 (m, 3H), 6.88 (d, J=8.6 Hz, 2H), 4.54 (dt, J=12.1, 6.1 Hz, 1H), 4.22 (dd, J=15.0, 9.0 Hz, 1H), 3.65 (dd, J=15.0, 2.7 Hz, 1H), 3.23-3.30 (m, 1H), 2.66-2.76 (m, 1H), 1.99-2.06 (m, 1H), 1.72-1.80 (m, 1H), 1.63-1.71 (m, 1H), 1.45-1.54 (m, 1H), 1.26-1.36 (m, 1H), 1.24 (d, J=6.1 Hz, 6H), 1.05-1.17 (m, 1H), 0.88 (d, J=6.8 Hz, 3H), 0.75 (t, 3H); LRMS (ESI) m/e 472.3 [(M+H)+, calcd for C30H38N3O2 472.3].

reactant | ((1S,2S)-1-{[(4′-isopropoxy-biphenyl-4-yl)-(2-pyridin-2-yl-cyclopropanecarbonyl)-amino]-methyl}-2-methyl-butyl)-carbamic acid tert-butyl ester | 0.084 mmol, 48 mg | C(C)(C)(C)OC(N[C@@H]([C@H](CC)C)CN(C(=O)C1C(C1)C1=NC=CC=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)OC(C)C)=O | C35H45N3O4
reactant | dichloromethane | 4 mL | ClCCl | CH2Cl2
reactant | HCl | Cl | ClH
solvent | dioxane | 4 N, 0.5 mL | O1CCOCC1 | C4H8O2
product | (1R,2R)-2-pyridin-2-yl-cyclopropanecarboxylic acid ((2S,3S)-2-amino-3-methyl-pentyl)-(4′-isopropoxy-biphenyl-4-yl)-amide | 38 mg, 95% yield | N[C@H](CN(C(=O)[C@H]1[C@@H](C1)C1=NC=CC=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)OC(C)C)[C@H](CC)C | C30H37N3O2
